US07081454B2
4-Hydroxy-3-(4-methyl-6-morpholin-4-yl-1H-benzoimidazol-2-yl)-1,5-dihydro-pyrrol-2-one:
To a stirred suspension of sodium hydride (60% in oil, 0.003 g, 0.044 mmol) in toluene (1 mL) was added [2-(1-tert-butyloxycarbonyl-4-methyl-6-morpholin-4-yl-1H-benzoimidazol-2-yl)-acetylamino]-acetic acid ethyl ester (0.135 g, 0.293 mmol) in tetrahydrofuran (2 mL) over 5 minutes. The mixture was stirred at 90–100° C. for 5 hours, then cooled down to ˜0° C. and ethyl acetate followed by aqueous hydrochloric acid (1N, ˜0.5 mL) were added. The aqueous phase was washed with ethyl acetate (3×) and this was submitted to Prep HPLC (acetonitrile/ammonium acetate/water) to give the title material (0.008 g, 69%) as a white solid. HPLC 100% (220 nm); LCMS (+ESI, M+H+) m/z 315; 1H NMR (400 MHz, methanol-d4) δ (ppm): 2.55 (3H, s), 3.18 (4H, br dd), 3.81 (2H, s), 3.88 (4H, br dd), 6.92 (1H, br s), 6.99 (11H, d, J=2.0 Hz).

reactant | sodium hydride | 0.044 mmol, 0.003 g | [H-].[Na+]
reactant | [2-(1-tert-butyloxycarbonyl-4-methyl-6-morpholin-4-yl-1H-benzoimidazol-2-yl)-acetylamino]-acetic acid ethyl ester | 0.293 mmol, 0.135 g | C(C)OC(CNC(CC1=NC2=C(N1C(=O)OC(C)(C)C)C=C(C=C2C)N2CCOCC2)=O)=O | C23H32N4O6
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 1N, ˜0.5 mL | Cl | ClH
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 4-Hydroxy-3-(4-methyl-6-morpholin-4-yl-1H-benzoimidazol-2-yl)-1,5-dihydro-pyrrol-2-one | 0.008 g, 69% | OC1=C(C(NC1)=O)C1=NC2=C(N1)C=C(C=C2C)N2CCOCC2 | C16H18N4O3
